US05786374
A mixture of 2.6 g of 3-(1-acetoxyethyl)-1,2-benzisoxazole, 0.9 g of potassium hydroxide, 40 ml of ethanol and 3 ml of water is stirred for 1 h at room temperature. The reaction mixture is then concentrated under vacuum and diluted with water. This aqueous phase is extracted three times with diethyl ether, the combined ethereal extracts are then washed with a saturated solution of sodium chloride and dried over sodium sulfate, giving 1-(1,2-benzisoxazol-3-yl)ethanol as an oil having a refractive index nD20 of 1.5555.

reactant | 3-(1-acetoxyethyl)-1,2-benzisoxazole | 2.6 g | C(C)(=O)OC(C)C1=NOC2=C1C=CC=C2 | C11H11NO3
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 1-(1,2-benzisoxazol-3-yl)ethanol | O1N=C(C2=C1C=CC=C2)C(C)O | C9H9NO2
